US04885283
In a manner analogous to that described in Example 24(A), from 0.17 g (1.09 mmol) of 2(S)-isobutylsuccinic anhydride and 0.32 g (0.73 mmol) of (aminomethyl)[(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid ethyl ester acetate, there was obtained 0.16 g of [[(S)-2-isobutylsuccinimido]methyl][(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid ethyl ester.

reactant | 2(S)-isobutylsuccinic anhydride | 1.09 mmol, 0.17 g | C(C(C)C)[C@@H]1C(=O)OC(C1)=O | C8H12O3
reactant | (aminomethyl)[(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid ethyl ester acetate | 0.73 mmol, 0.32 g | C(C)(=O)O.C(C)OP(=O)(CC(CC(C)C)C(N[C@@H](CC(C)C)C(NC)=O)=O)CN
product | [[(S)-2-isobutylsuccinimido]methyl][(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid ethyl ester | 0.16 g | C(C)OP(=O)(CC(CC(C)C)C(N[C@@H](CC(C)C)C(NC)=O)=O)CN1C([C@H](CC1=O)CC(C)C)=O | C25H46N3O6P
